US08383657B2
2,2-dimethyl-N-(5-methyl-1,3-thiazol-2-yl)propanamide
5-Methylthiazol-2-amine (5.71 g, 50.0 mmol) and pivaloyl chloride (6.78 mL, 55.0 mmol) were mixed in anhydrous acetonitrile (80 mL) and treated with triethylamine (14.0 mL, 100 mmol) resulting in an exotherm. After 15 minutes, the warm suspension was cooled for 5 minutes with a water bath. The solids were collected by filtration and rinsed with more acetonitrile. The filtrate was partially concentrated and the solids which precipitated were also collected by filtration and rinsed with acetonitrile. The two crops were combined and rinsed with water, and when solids precipitated from the filtrate they were collected by filtration and added to the previously collected material. The crude product was washed with 1:1 dichloromethane/hexanes and dried under vacuum to give the title compound.

reactant | 5-Methylthiazol-2-amine | 50.0 mmol, 5.71 g | CC1=CN=C(S1)N | C4H6N2S
reactant | pivaloyl chloride | 55.0 mmol, 6.78 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | triethylamine | 100 mmol, 14.0 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2,2-dimethyl-N-(5-methyl-1,3-thiazol-2-yl)propanamide | CC(C(=O)NC=1SC(=CN1)C)(C)C | C9H14N2OS
